US06177452B1
Ethyl chloroformate (590 mg) was dropwise added to a tetrahydrofuran (40 ml) solution of 4-(4-chlorophenyl)-2-(2-methyl-1-imidazolyl)-5-oxazolepropionic acid (1.50 g) and triethylamine (550 mg), at −30° C. After stirring for 30 minutes, the reaction mixture was poured into a solution as prepared from 2-chloroethylamine hydrochloride (2.62 g), triethylamine (2.29 g) and N,N-dimethylformamide (20 ml), at 0° C., and then stirred at room temperature for 1 hour. The reaction mixture was poured into water, and the crystals thus precipitated were collected by filtration to obtain N-(2-chloroethyl)-4-(4-chlorophenyl)-2-(2-methyl-1-imidazolyl)-5-oxazolepropionamide (1.53 g, 86%). This was recrystallized from ethyl acetate-hexane to give colorless needles. mp 155-156° C.

reactant | Ethyl chloroformate | 590 mg | ClC(=O)OCC | C3H5ClO2
reactant | tetrahydrofuran | 40 ml | O1CCCC1 | C4H8O
reactant | 4-(4-chlorophenyl)-2-(2-methyl-1-imidazolyl)-5-oxazolepropionic acid | 1.50 g | ClC1=CC=C(C=C1)C=1N=C(OC1CCC(=O)O)N1C(=NC=C1)C | C16H14ClN3O3
reactant | 2-chloroethylamine hydrochloride | 2.62 g | Cl.ClCCN
solvent | water | O | H2O
solvent | N,N-dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
solvent | triethylamine | 2.29 g | C(C)N(CC)CC | C6H15N
solvent | triethylamine | 550 mg | C(C)N(CC)CC | C6H15N
product | N-(2-chloroethyl)-4-(4-chlorophenyl)-2-(2-methyl-1-imidazolyl)-5-oxazolepropionamide | 1.53 g, 86% | ClCCNC(CCC1=C(N=C(O1)N1C(=NC=C1)C)C1=CC=C(C=C1)Cl)=O | C18H18Cl2N4O2
